US06627651B1
Into a solution of tert-butyl 1-[2-[N-methyl-N-(tetrahydropyran-4-yl)amino]ethyl]-4-piperidinylcarbamate (2.72 g) in ethanol (30 ml) was added concentrated hydrochloric acid (10 ml), and the resulting mixture was stirred for 7 hours. After the reaction mixture was concentrated under reduced pressure, ethanol and methanol are added to the residue, and the resulting mixture was concentrated further. The precipitate was collected by filtration and was washed with ethanol and methanol to obtain 4-amino-1-[2-[N-methyl-N-(tetrahydropyran-4-yl)amino]ethyl]piperidine dihydrochloride (1.65 g) as a light yellow powder.

reactant | tert-butyl 1-[2-[N-methyl-N-(tetrahydropyran-4-yl)amino]ethyl]-4-piperidinylcarbamate | 2.72 g | CN(C1CCOCC1)CCN1CCC(CC1)NC(OC(C)(C)C)=O | C18H35N3O3
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-amino-1-[2-[N-methyl-N-(tetrahydropyran-4-yl)amino]ethyl]piperidine dihydrochloride | 1.65 g | Cl.Cl.NC1CCN(CC1)CCN(C1CCOCC1)C | InChI=1S/C13H27N3O.2ClH/c1-15(13-4-10-17-11-5-13)8-9-16-6-2-12(14)3-7-16;;/h12-13H,2-11,14H2,1H3;2*1H
